US06162808
v) 4-Methyl-2-[2-[3-propylphenyl]ethyl]benzoic acid
The subtitle compound was prepared from the product of step (iv) (15.4 g) by the method of example 21 step (iii). The crude reaction product was contaminated with 4-methyl-2-[2-[3-[1-propenyl]phenyl]ethyl]benzoic acid. The crude reaction product was dissolved in ethyl acetate (100 ml) and the solution was hydrogenated over 10% palladium on carbon (1 g) at 3 atmospheres pressure for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated. Yield 12.8 g.

reactant | 4-methyl-2-[2-[3-[1-propenyl]phenyl]ethyl]benzoic acid | CC1=CC(=C(C(=O)O)C=C1)CCC1=CC(=CC=C1)C=CC | C19H20O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 4-Methyl-2-[2-[3-propylphenyl]ethyl]benzoic acid | CC1=CC(=C(C(=O)O)C=C1)CCC1=CC(=CC=C1)CCC | C19H22O2
